US09416141B2
Step 1: 6-(3-aminopropyl)-2-{[(4-chlorophenyl)carbamoyl]amino}-4H,5H,6H,7H-thieno[2,3-c]pyridine-3-carboxamide (G)
A stirred suspension of tert-butyl-N-[3-(2-{[(4-benzoylphenyl)carbamoyl]amino}-3-carbamoyl-4H,5H,6H,7H-thieno[2,3-c]pyridin-6-yl)propyl]carbamate (70 mg, 0.14 mmol) in 4 mL of DCM at rt was treated with 2 mL of TFA. The resultant solution was stirred at rt for 40 min whereupon it was concentrated in a rotary evaporator. The product was taken up in MeOH and the solution concentrated in vacuo (×2) to afford the title compound as a light tan solid in quantitative yield. LRMS [M+H]408.

reactant | tert-butyl-N-[3-(2-{[(4-benzoylphenyl)carbamoyl]amino}-3-carbamoyl-4H,5H,6H,7H-thieno[2,3-c]pyridin-6-yl)propyl]carbamate | 0.14 mmol, 70 mg | C(C)(C)(C)OC(NCCCN1CC2=C(CC1)C(=C(S2)NC(NC2=CC=C(C=C2)C(C2=CC=CC=C2)=O)=O)C(N)=O)=O | C30H35N5O5S
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | 6-(3-aminopropyl)-2-{[(4-chlorophenyl)carbamoyl]amino}-4H,5H,6H,7H-thieno[2,3-c]pyridine-3-carboxamide | quantitative yield | NCCCN1CC2=C(CC1)C(=C(S2)NC(NC2=CC=C(C=C2)Cl)=O)C(=O)N | C18H22ClN5O2S
